US03970753
1-Bromo-4-phthalimidobutan-2-one (23.6 g.) was added to a solution of 2-aminopyridine (7.6 g.) and sodium bicarbonate (6.8 g.) in dimethylformamide (100 ml.) and the mixture was heated at 100° for 1 hour. Cooling followed by addition to water and recrystallisation from ethanol afforded 2-(2-phthalimidoethyl)imidazo [1,2-a]-pyridine (13.4 g.) m.p. 181° - 181.5°.

reactant | 1-Bromo-4-phthalimidobutan-2-one | 23.6 g | BrCC(CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C12H10BrNO3
reactant | 2-aminopyridine | 7.6 g | NC1=NC=CC=C1 | C5H6N2
reactant | sodium bicarbonate | 6.8 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-phthalimidoethyl)imidazo [1,2-a]-pyridine | 13.4 g | C1(C=2C(C(N1CCC=1N=C3N(C=CC=C3)C1)=O)=CC=CC2)=O | C17H13N3O2
